Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___
PCP: yet to establish
Time patient seen: 02:15

CC: DOE, ___ cramping

HPI: ___ with hx of migraine headaches, ___ ___ menorrhagia, H.
pylori presenting with subacute DOE and acute ___ cramping and
edema. Pt recalls longstanding recurrent diffuse muscle spasms
that are exquisitely sensitive to weather changes. She recalls
that she first recognized DOE 2 weeks prior to presentation in
the setting of decreased ambulation. She reports that she often
meets friends to walk around ___, but that
she had gotten "lazy" and had not been going for walks x1-2
months. Two weeks prior to presentation, she went for a walk 
near
her work with a friend, and noticed that she was much more
dyspneic than is usual for her. She attributed her symptoms to
deconditioning. She recalls onset of muscle spasms in her back,
fingers, toes the week prior to presentation, similar to her
chronic recurrent muscle cramping. Then on ___, she was
cooking dinner at 4 pm, she noted severe ___ cramping pain,
___, and she decided to order food instead. She lives in an
apartment complex, in order to collect the food delivery had to
walk down a hall, down three steps, then back up to her
apartment, by which time she was gasping for air. She took 
motrin
without relief. The following day (___), she went for a
pedicure, and she noted marked improvement in her pain. After
grocery shopping, carrying bags up to her apartment, she again
noted severe dyspnea. Then again on ___, she developed
recurrent ___ pain. She applied heat with space heater and warm
socks, which typically relieve her symptoms, but did not provide
relief. A warm bath with Epsom salts at home provided minimal
relief. 

She also recalls drenching night sweats on the morning prior to
presentation, requiring change of shirt ___ times overnight. She
denies subjective F/C. Cough evolved on the day of admission, 
and
recalls brief period of chest pain that accompanied episode of
dyspnea on ___, but none since then. She first noted frank
___ edema on ___.

Over the summer, she took several plane trips. Specifically,
___ she traveled with family to ___, and has also
traveled to ___ to visit her daughter (nonstop flight 1.5
hours) 4 times. Also flew to ___ in ___, nonstop flight
___ hours. 

She is s/p tubal ligation, not taking any form of hormones. She
had a single early miscarriage, and no known history of clots.
Her last mammogram was at age ___ or ___. She has intentionally
lost 198->183 lbs over the past ___ months with modified diet;
she notes that she typically gains weight in the winter and 
loses
weight in the ___ time. She also underwent colonoscopy in
___, which was unremarkable.

With respect to her history ___ and menorrhagia, she reports
that her periods used to last ___ days, now ___ days, with heavy
flow. She used to pass large volume of blood with clots, more
recently clots have resolved. She is currently menstruating, and
describes soaking through 5 heavy overnight pads over the course
of ___ hours on the morning of presentation. She used to be
prescribed iron supplementation, but stopped taking it ___ years
ago. 

In the ___ ED:
VS 98.5, 114->87, 105/77, 100% RA
Exam notable for TTP of L calf
Labs notable for WBC 7.8, Hb 9.1, Plt 418, d-dimer 6868,
TnT<0.01, BNP 46, urine HCG negative

Imaging:
CTA with bilateral lobar and segmental PEs without evidence of R
heart strain, bilateral basal wedge-shaped infarcts ___ PEs

L ___: DVT spanning distal L femoral vein to posterior tibial
and one of the paired peroneal veins

Received:
Heparin gtt - d/ced prior to transfer to floor, lovenox ordered
but not administered

On arrival to the floor, pain is ___ in ___. Denies SOB at
rest, although notes "lung pain" with deep breaths.

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI

 
Past Medical History:
H. pylori gastritis/duodenitis ___, Prevpac
Borderline diabetes
Migraines
Iron deficiency anemia ___ yrs.
menorrhagia-hematuria.  Microscopic hematuria workup neg ___.
LUQ pain ___
SIBO-rifaximin/neo ___
 
Social History:
___
Family History:
Mother has CAD, s/p multiple
stents. Mother also had DM2, htn, HLD. She does not know her
father. Brother is in good health, maybe has an eye problem?
Daughter is in good health. 

 
Physical Exam:
VS: ___ 0127 Temp: 98.8 PO BP: 127/83 L Lying HR: 96 RR: 17
O2 sat: 95% O2 delivery: Ra 
___ 0215 Dyspnea: 0 RASS: 0 Pain Score: ___ 
GEN: alert and interactive, comfortable, no acute distress
HEENT: PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, moist mucus membranes, ears without lesions 
or
apparent trauma
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
BREAST: No masses, lesions, skin changes, or discharge
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: soft, nontender, without rebounding or guarding, 
nondistended
with normal active bowel sounds, no hepatomegaly
EXTREMITIES: subtle ___ edema with warmth compared to RLE, +TTP,
no palpable cords
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: Alert and interactive, cranial nerves II-XII grossly
intact, strength and sensation grossly intact
PSYCH: normal mood and affect

 
Pertinent Results:
___ 07:45PM BLOOD WBC-7.8 RBC-4.20 Hgb-9.1* Hct-29.5* 
MCV-70* MCH-21.7* MCHC-30.8* RDW-17.0* RDWSD-42.1 Plt ___
___ 06:20AM BLOOD ___ PTT-28.9 ___
___ 07:45PM BLOOD D-Dimer-6868*
___ 07:45PM BLOOD Glucose-112* UreaN-12 Creat-0.7 Na-138 
K-4.0 Cl-101 HCO3-24 AnGap-13
___ 07:45PM BLOOD cTropnT-<0.01
___ 07:45PM BLOOD proBNP-46
___ 07:45PM BLOOD calTIBC-445 Ferritn-14 TRF-342
___ 07:45PM BLOOD HCG-<5

___:
IMPRESSION: 
1.  Deep venous thrombosis spanning the distal left femoral vein 
to the 
posterior tibial and one of the paired peroneal veins. 
2. No evidence of deep venous thrombosis in the right lower 
extremity veins. 

CTA CHEST:
IMPRESSION: 
1. Right upper lobar; bilateral lower segmental and subsegmental 
pulmonary 
arterial near occlusive filling defects concerning for pulmonary 
emboli. No 
evidence of right heart strain. 
2. Bilateral basal wedge-shaped infarcts likely secondary to 
pulmonary emboli. 

ECHO:
CONCLUSION:
The left atrial volume index is normal. There is normal left 
ventricular wall thickness with a normal cavity size.
There is normal regional and global left ventricular systolic 
function. The visually estimated left ventricular
ejection fraction is 60%. There is no resting left ventricular 
outflow tract gradient. Normal right ventricular
cavity size with normal free wall motion. The aortic sinus 
diameter is normal for gender with normal ascending
aorta diameter for gender. The aortic arch diameter is normal. 
The aortic valve leaflets (3) appear structurally
normal. There is no aortic valve stenosis. There is no aortic 
regurgitation. The mitral valve leaflets appear
structurally normal with no mitral valve prolapse. There is 
trivial mitral regurgitation. The tricuspid valve
leaflets appear structurally normal. There is physiologic 
tricuspid regurgitation. The estimated pulmonary
artery systolic pressure is normal. There is no pericardial 
effusion.
IMPRESSION: Normal biventricular cavity sizes, regional/global 
systolic function. No valvular pathology or
pathologic flow identified. Normal estimated pulmonary artery 
systolic pressure.

 
Brief Hospital Course:
___ woman with migraine headaches, ___ ___ menorrhagia, H. pylori 
presenting with DVT/PE with evidence of pulmonary infarct, no 
heart strain, and clinically improved on anticoagulation.

Acute ___ DVT with bilateral PE:
Diagnosed based on sxs with elevated D dimer which led to LENIs 
and CTA chest.  Clincially she was stable with no evidence of 
heart strain or hypotension.  At this time she had no clear 
provocation for this VTE.  She has no family history and no 
obvious cancer.  She will benefit from work up for thrombophilia 
in the outpatient setting.  She was initially given IV heparin 
and then transitioned to Rivaroxaban.  She was counseled 
extensively on blood thinning medication and the different 
options.  She will be discharged on Rivaroxaban load 15mg BID 
until ___ and then will start 20mg daily starting ___.  She 
will require at least 6 months of treatment.  Heme referral and 
age appropriate cancer screening is recommended.  recommend 
compression stocking ___ to ___.
- PLEASE NOTE: she was given 1 month of Rivaroxaban free by 
pharmacy.  She will either need to CONTINUE rivaroxaban 
thereafter OR change to Lovenox bridge to warfarin pending her 
financial burden.  We recommend assistance with these 
medications on next follow up to determine the best option going 
forward.  She expressed good understanding of this.

# Iron Def Anemia:
# Menorrhagia: 
# Reactive thrombocytosis:
Has a history ___ ___ menorrhagia, now off iron 
supplementation. Suspect thrombocytosis is also reflection of 
___.  Iron studies confirmed mild deficiency.  She was given IV 
iron in the hospital and written for ferrous sulfate 325mg every 
other day on DC.
- GYN referral

# Chronic diffuse myalgias/cramping: Likely ___ ___. 
- ___ as above

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen ___ mg PO TID:PRN Pain 
maximum 3 grams per day  
2.  Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
every other day Disp #*30 Tablet Refills:*0 
3.  Ondansetron ODT 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 

RX *ondansetron 4 mg 1 tablet(s) by mouth three times a day Disp 
#*15 Tablet Refills:*0 
4.  Rivaroxaban 15 mg PO BID 
with food for ___ 21 days 
RX *rivaroxaban [Xarelto] 15 mg (42)- 20 mg (9) 1 tablets(s) by 
mouth as directed Disp #*1 Dose Pack Refills:*0 
5.  Rivaroxaban 20 mg PO DAILY 
start after completing 21 day load  
6.  Senna 8.6 mg PO BID:PRN Constipation  
7.Compression stocking
Below the knee
___ compression
to left lower extremity
dx: acute DVT I82.___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ___ DVT and PE
Iron deficiency anemia
Menorrhagia
Migraines

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with shortness of breath and left leg swelling 
and found to have blood clots in your left leg and lung.  You 
were started on a blood thinner for treatment.  It is very 
important that you take the medication as prescribed and do not 
miss any doses.  Please follow up with your doctor as you 
scheduled for next week for ongoing care.

You will be taking Rivaroxaban.  Please take the loading dose of 
15mg twice daily through ___.  Starting ___, take the 20mg 
daily dose.  You will need to continue this medication at 20mg 
daily once your prescription runs out by either getting a refill 
of the 20mg daily, OR switching to Lovenox injections and 
Warfarin.   PLEASE DISCUSS THIS WITH YOUR DOCTOR ON NEXT FOLLOW 
UP as they will have to help you with this issue.  You will need 
at least 6 months of blood thinning treatment.

You were also found to have iron deficiency anemia again.  We 
will discharge you on oral iron replacement
 
Followup Instructions:
___